Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],6.932723394089999
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.40890667536
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5][H:6],4.08788152279
[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.30955760351
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7].[O:8][H:9],5.83130843444
[H:14].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.79435041544
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4],1.3959342202899998
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][O:8][C:9][C:10]([H:11])([H:12])[H:13],6.82911588613
[H:1][O:2][C@:3]1([H:4])[O:5][C:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:7](/[C:6]=[O:5])[C:8]([H:9])([H:10])[H:11],-2.07190607967
[H:1][C:2][O:3][C:4](=[C:5]=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.27506734559
[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.29942956635
[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10][H:11],-3.1838817988300003
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.827649670909
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10].[O:1],2.13135496623
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2][O:3]/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15],1.92796370096
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7],3.72411779262
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],-3.97819722834
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1].[O:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],0.690741992391
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],1.4844393288
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.7969310155
[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-5.016988603730001
[C:4]#[C:5][H:6].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]#[C:5][H:6],-6.34800988798
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[O:9],2.6688255570400004
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.1484752162900005
[C:11]([H:12])[H:13].[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.2575498968800005
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4].[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],4.92093484665
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:9],2.0018614357700004
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4],1.08439082365
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6],0.911245945269
